US05500484
The procedure in Example 6 was repeated except that 2-ethoxy-2-phenylethanal was replaced with 2-methoxy-2-phenylethanal, to obtain 2-methoxy-2-phenyl-1,3-propanediol.

reactant | 2-ethoxy-2-phenylethanal | C(C)OC(C=O)C1=CC=CC=C1 | C10H12O2
reactant | 2-methoxy-2-phenylethanal | COC(C=O)C1=CC=CC=C1 | C9H10O2
product | 2-methoxy-2-phenyl-1,3-propanediol | COC(CO)(CO)C1=CC=CC=C1 | C10H14O3
